US08623859B2
5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-[3-(pyrrolidin-1-ylmethyl)benzyl]furan-3-carboxamide
The title compound was prepared according to general procedure AD using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (60 mg, 0.16 mmol), CDI (48 mg, 0.29 mmol), DIPEA (0.17 mL, 0.97 mmol) and N-methyl-1-[3-(pyrrolidin-1-ylmethyl)phenyl]methanamine (31 mg, 0.14 mmol) in DCE (1.2 mL).

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.16 mmol, 60 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.29 mmol, 48 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIPEA | 0.97 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methyl-1-[3-(pyrrolidin-1-ylmethyl)phenyl]methanamine | 0.14 mmol, 31 mg | CNCC1=CC(=CC=C1)CN1CCCC1 | C13H20N2
solvent | DCE | 1.2 mL | ClCCCl | C2H4Cl2
product | 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-[3-(pyrrolidin-1-ylmethyl)benzyl]furan-3-carboxamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)N(CC1=CC(=CC=C1)CN1CCCC1)C)C | C29H37N3O5S
